US04014887
A mixture of 78.5 parts of 2,2,6,6-tetramethylpiperidine-4-ol and 30.25 parts of allyl bromide in 250 parts of ethyl alcohol was heated under reflux conditions for 48 hours. The cooled reaction mixture was filtered to remove 2,2,6,6-tetramethylpiperidin-4-ol hydrobromide formed during the reaction and the ethyl alcohol solvent was removed by distillation under reduced pressure. The residue was triturated with cold petroleum ether (b.p. 40°-60°C) to remove a small amount of unreacted 2,2,6,6-tetramethylpiperidin-4-ol. Crystallisation of the residue from 40°-60°C petroleum ether gave 1-allyl-2,2,6,6-tetramethylpiperidin-4-ol having a melting point of 84°-5°C and the following elemental analysis by weight.

reactant | 2,2,6,6-tetramethylpiperidine-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1-allyl-2,2,6,6-tetramethylpiperidin-4-ol | C(C=C)N1C(CC(CC1(C)C)O)(C)C | C12H23NO
